US06528525B1
In a similar manner to that described in Reference example 1(c), a reaction was carried out using 2,2,3,3-tetrafluoropropanol (5.23 ml), sodium hydride (55% suspension in oil, 1.91 g) and methyl 6-chloronicotinate (5.00 g) and treated to afford crude methyl 6-(2,2,3,3-tetrafluoropropoxy)nicotinate (5.42 g) as a colorless oil. In a similar manner to that described in Example 2, a reaction was carried out using the crude product described above (2.70 g) and aqueous sodium hydroxide solution (2N, 15 ml) and the reaction mixture was treated to afford crude title compound (1.60 g). This product was used in Example 102 and Example 150 without further purification.

reactant | 2,2,3,3-tetrafluoropropanol | 5.23 ml | FC(CO)(C(F)F)F | C3H4F4O
reactant | sodium hydride | 1.91 g | [H-].[Na+]
reactant | methyl 6-chloronicotinate | 5.00 g | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
product | methyl 6-(2,2,3,3-tetrafluoropropoxy)nicotinate | 5.42 g | FC(COC1=NC=C(C(=O)OC)C=C1)(C(F)F)F | C10H9F4NO3
